US04362728
1-Nitro-2-methylisothiourea (0.135 g.) was added to a stirred solution of 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[(2-aminoethyl)thiomethyl]pyrimidine (0.31 g.) in acetonitrile (5 ml.) and the suspension stirred at room temperature for 2 hours. The insoluble material was collected to give 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[2-(2-nitro-3-methylguanidino)ethyl thiomethyl]pyrimidine (0.35 g.) m.p. 199°-200° (decomp.)

reactant | 1-Nitro-2-methylisothiourea | 0.135 g | [N+](=O)([O-])NC(SC)=N | C2H5N3O2S
reactant | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[(2-aminoethyl)thiomethyl]pyrimidine | 0.31 g | FC(CN=C(NC1=NC(=NC=C1)CSCCN)N)(F)F | C10H15F3N6S
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[2-(2-nitro-3-methylguanidino)ethyl thiomethyl]pyrimidine | 0.35 g | FC(CN=C(NC1=NC(=NC=C1)CSCCNC(=N[N+](=O)[O-])NC)N)(F)F | C12H18F3N9O2S
